Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
chlorhexidine
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HISTORY OF PRESENTING ILLNESS:  
___ year old with no prior history of CAD and history of rectal 
cancer clinical stage T2N1M0 (Stage IIIA), enrolled on the 
PROSPECT trial, randomized to the control arm, completed 
neoadjuvant chemoradiotherapy ___, underwent robotic resection 
(LAR) on ___, and now s/p ileostomy reversal ___ on C2D3 
of modified FOLFOX presenting with chest pain.  
 
Pt was started on C2 of modified FOLFOX ___ and states that for 
the past two days he has been experiencing intermittent severe, 
episodic upper abdominal and right lower chest pain in a band 
like distribution. He states that yesterday at 12:30 AM he awoke 
with the band-like abdominal pain and associated right lower 
chest pain while receiving his chemotherapy infusion. He went to 
the bathroom and developed associated diaphoresis. He states 
that the episode resolved spontaneously after ___ minutes and 
was able to sleep. At 4AM he awoke again with similar pain that 
lasted only ___ minutes. He states that he had similar episodes 
of chest pain during his first cycle of FOLFOX. In the morning, 
his oncologist, Dr. ___ and he reported the chest 
pain. She referred him to the ED for evaluation. Per signout 
from Dr. ___, there is specific concern for ___ induced 
vasospasm. She requests an expedited cardiac catheterization to 
assess for CAD.  
 
 
In the ED, initial vital signs were: 98.1 87 103/56 18 99% RA  
 - Exam was unremarkable in the ED  
 - Labs were notable for: WBC 7.3, H/H ___, plts 218, Na 
141, K 4.2, BUN/Cr ___, ALT 41, AST 33, total bili 0.4, 
lipase 30, INR 1.0, troponin <0.01, lactate 1.2  
 - Imaging: CXR without acute cardiopulmonary abnormality  
 - The patient was given: ASA 324 mg x 1, 1L NS  
 - Cardiology was consulted in the ED and recommended admission 
to ___ with plans for cardiac catheterization in the AM  
 
Vitals prior to transfer were: 98.0 62 101/68 16 97% on RA  
 
Upon arrival to the floor, pt initially denies active abdominal 
or chest pain and states that he feels well. In the midst of the 
interview, he developed right sided abdominal pain which 
spontaneously resolved.
 
Past Medical History:
RECTAL CANCER 
Rectal cancer stage IIIA (T2N1M0)
- ___ Presented to PCP with hematochezia ___ 4 weeks
- ___ Colonoscopy revealed an ulcerated 3 cm mass in the 
proximal rectum. Biopsy showed adenocarcinoma
- ___ MR pelvis showed a T2N1 rectal cancer. CT torso 
showed no metastatic disease. 
- ___ Offer enrollment in PROSPECT ___ ___
- ___ Signed consent for PROSPECT ___ ___ Start chemoradiotherapy with ci5FU 225 mg/m2/day
CONTACT DERMATITIS 
TINEA CORPORIS 
ELEVATED PSA
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VITALS - 98.1 56 137/81 18 99% on RA  
GENERAL - pleasant, well-appearing  
HEENT - normocephalic, atraumatic, no conjunctival pallor or 
scleral icterus, PERRLA  
NECK - supple, no LAD, no thyromegaly, JVP flat  
CARDIAC - regular rate & rhythm, normal S1/S2, no murmurs rubs 
or gallops  
PULMONARY - clear to auscultation bilaterally, without wheezes 
or rhonchi  
ABDOMEN - normal bowel sounds, soft, non-tender, non-distended, 
no organomegaly, ostomy site healing well, periumbilical scar 
well healed  
EXTREMITIES - warm, well-perfused, no cyanosis, clubbing or 
edema  
SKIN - without rash  
NEUROLOGIC - A&Ox3, CN II-XII grossly normal, normal sensation, 
with strength ___ throughout.  
PSYCHIATRIC - listen & responds to questions appropriately, 
pleasant  

DISCHARGE PHYSICAL EXAM:
GENERAL: Pleasant male in NAD  
HEENT: normocephalic, atraumatic, no conjunctival pallor or 
scleral icterus, PERRLA  
NECK: supple, no LAD, no thyromegaly, JVP flat  
CARDIAC: regular rate & rhythm, normal S1/S2, no murmurs rubs or 
gallops  
PULMONARY: clear to auscultation bilaterally, without wheezes or 
rhonchi  
ABDOMEN: normal bowel sounds, soft, non-tender, non-distended, 
no organomegaly, ostomy site healing well, periumbilical scar 
well healed  
EXTREMITIES: warm, well-perfused, no cyanosis, clubbing or edema 
 

 
Pertinent Results:
ADMISSION LABS:
___ 03:24PM BLOOD WBC-7.3 RBC-4.47* Hgb-12.0* Hct-37.8* 
MCV-85 MCH-26.8 MCHC-31.7* RDW-15.7* RDWSD-45.9 Plt ___
___ 03:24PM BLOOD Neuts-82.1* Lymphs-7.6* Monos-8.9 
Eos-0.4* Baso-0.4 Im ___ AbsNeut-5.97 AbsLymp-0.55* 
AbsMono-0.65 AbsEos-0.03* AbsBaso-0.03
___ 03:24PM BLOOD ___ PTT-25.9 ___
___ 03:24PM BLOOD Glucose-91 UreaN-28* Creat-0.9 Na-141 
K-4.2 Cl-104 HCO3-26 AnGap-15
___ 03:24PM BLOOD ALT-41* AST-33 AlkPhos-72 TotBili-0.4
___ 03:24PM BLOOD Albumin-4.1 Calcium-9.3 Phos-3.6 Mg-2.3
___ 03:39PM BLOOD Lactate-1.2

KEY LABS:
___ 03:24PM BLOOD cTropnT-<0.01
___ 11:00PM BLOOD CK-MB-<1 cTropnT-<0.01
___ 04:58AM BLOOD CK-MB-<1 cTropnT-<0.01

DISCHARGE LABS:
___ 04:58AM BLOOD Glucose-101* UreaN-25* Creat-0.8 Na-143 
K-4.0 Cl-105 HCO3-27 AnGap-15
___ 04:58AM BLOOD Calcium-8.9 Phos-3.8 Mg-2.3

IMAGING/TESTS:
___ EKG: Sinus rhythm. Within normal limits.

___ CXR: Left-sided Port-A-Cath tip terminates at the 
junction of the SVC and right
atrium.  Heart size is normal.  Mediastinal and hilar contours 
are normal. 
Lungs are clear.  Pulmonary vasculature is normal.  No pleural 
effusion or
pneumothorax is present.  No acute osseous abnormalities 
detected.
IMPRESSION:
No acute cardiopulmonary abnormality.

___ STRESS TEST: 
EKG:  SB, BORDER PR PROLONG, ERWP 
HEART RATE:  57BLOOD PRESSURE:  108/70
 
PROTOCOL ___ - TREADMILL
STAGETIMESPEEDELEVATIONHEARTBLOODRPP
 (MIN)(MPH)(%)RATEPRESSURE 
___
___
 
TOTAL EXERCISE TIME:  7.5% MAX HRT RATE ACHIEVED:  95
SYMPTOMS:ATYPICALPEAK ___
ST DEPRESSION:NONE
 
INTERPRETATION: ___ yo man with HL and h/o colorectal cancer and
undergoing chemotherapy (___) was referred to evaluate an 
atypical chest
discomfort associated with chemotherapy that has occurred over 
the past
month. The patient completed 7.5 minutes of ___ protocol
representing an average exercise tolerance; ~ ___ METS. The 
exercise
test was stopped due to fatigue. At peak exercise the patient 
reported
an abrupt-onset ___ "band-like pain" surrounding his upper and 
lower
abdominal nearly identical to the discomfort that occurs with
chemotherapy in both intensity and duration. This discomfort 
resolved
quickly post-exercise and was absent by 2 minutes of recovery. 
No
significant ST segment changes were noted during the procedure. 
The
rhythm was sinus with no ectopy noted. The hemodynamic response 
to
exercise was appropriate.
 
IMPRESSION: Average exercise tolerance. Atypical symptoms 
(identical to
those reported while undergoing chemotherapy) in the absence of 
ischemic
ST segment changes. Appropriate hemodynamic response to 
exercise.
 
Brief Hospital Course:
Mr. ___ is a ___ year old gentleman with a history of 
rectal cancer on chemotherapy who had an episode of upper 
abdominal pain and right lower quadrant chest pain in a band 
like distribution during chemotherapy. 

Given concern for vasospasm vs. ACS, he was admitted to ___ 
for further workup. Troponins were negative x3 and there were no 
EKG changes. He underwent an exercise stress test for risk 
stratification. He experienced recurrence of abdominal pain 
during the stress test, though there were no EKG changes. Given 
low suspicion for ACS and the risk/benefit profile of pursuing 
more invasive interventions, a cardiac catheterization was not 
pursued. 

He is scheduled for an outpatient coronary CT to evaluate for 
coronary calcifications. This was communicated to his 
Oncologist. 

=============
ACTIVE ISSUES:
=============

# Chest pain: Pt presents with chest pain in the setting of ___ 
infusion without concerning EKG findings or troponin elevation 
to suggest ACS. No history of CAD with normal stress test in 
___, however some concern for ___ induced coronary vasospasm. 
Stress test performed this admission showed no EKG changes, but 
did result in reproduction of patient's pain at peak exercise. 
Patient will undergo further workup, beginning with a CTA of the 
coronary arteries as an outpatient. 
 
# Colorectal cancer: Had just started Cycle #2 of modified 
FOLFOX when patient experienced symptoms. Per primary 
oncologist, Dr. ___ his coronary arteries are clear, a 
new chemo regimen will have to be considered.  

===============
CHRONIC ISSUES:
===============

# Hyperlipidemia: Continued home pravastatin  
 
# Normocytic anemia: Stable 

 
# CONTACT: ___  
Relationship: wife  
Cell phone: ___  
# CODE STATUS: Full code  

===================
TRANSITIONAL ISSUES:
===================
- Patient will undergo outpatient coronary CTA and undergoing 
discussion with his oncologist and cardiologist about whether 
the cause of his pain is CAD, chemotherapy-related vasopspasm, 
or entirely non-cardiac.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q8H:PRN Pain 
2. Docusate Sodium 100 mg PO BID 
3. LOPERamide 2 mg PO QID:PRN Diarrhea 
4. Pravastatin 80 mg PO QPM 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q8H:PRN Pain 
2. Docusate Sodium 100 mg PO BID 
3. LOPERamide 2 mg PO QID:PRN Diarrhea 
4. Pravastatin 80 mg PO QPM 
5. Aspirin 81 mg PO DAILY 
RX *aspirin [Aspir-81] 81 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Abdominal pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital because you were having chest 
pain during chemotherapy. Your cardiac enzymes did not reveal 
recent cardiac injury, which is reassuring. You underwent a 
stress test, which also did not reveal any concerning changes. 
You are scheduled for a CT scan of your heart to evaluate for 
any evidence of atherosclerosis in your heart, which will help 
guide the next steps in your workup.

Please follow up with the appointments listed below.

It was a pleasure to be a part of your care,

Your ___ treatment team.
 
Followup Instructions:
___